US08431695B2
Step 4: Preparation of tert-butyl 3-[(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)methyl]azetidine-1-carboxylate
To a cooled (0° C.) solution of tert-butyl 3-[(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)(hydroxy)methyl]azetidine-1-carboxylate (1.35 g, 4.25 mmol) in CH2Cl2 (12 mL) was added TFA (3.7 mL, 47.54 mmol) followed by triethylsilane (3.80 mL, 23.77 mmol), dropwise. The mixture was stirred at rt for 17 h. Additional TFA (1.8 mL) and triethylsilane (1.9 mL) were added and the mixture continued to stir at rt for 22 h. The reaction was concentrated to dryness. To a solution of the residue in THF (10 mL) was added 2M aqueous Na2CO3 (36 mL, 71.32 mmol) and di-tert-butyl carbonate (713 mg, 3.27 mmol). The mixture was stirred at rt for 17 h. The mixture was partitioned between EtOAc (50 mL) and H2O (25 mL) and the solid was removed by filtration. The layers of the filtrate were separated and the aqueous was further extracted with EtOAc (2×50 mL). The combined organics were washed with brine, dried (Na2SO4), and concentrated to dryness. The crude residue was purified by ISCO® chromatography using a gradient of 50 to 75% ethyl acetate in hexanes to afford 259 mg (29%) of the desired product. ES-MS m/z 304.02 [M+H]+, HPLC RT (min) 2.35.

reactant | tert-butyl 3-[(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)(hydroxy)methyl]azetidine-1-carboxylate | 4.25 mmol, 1.35 g | NC1=NC=NN2C1=CC=C2C(C2CN(C2)C(=O)OC(C)(C)C)O | C15H21N5O3
reactant | TFA | 47.54 mmol, 3.7 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 23.77 mmol, 3.80 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 1.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 1.9 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Na2CO3 | 71.32 mmol, 2M, 36 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-tert-butyl carbonate | 3.27 mmol, 713 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-[(4-aminopyrrolo[2,1-f][1,2,4]triazin-7-yl)methyl]azetidine-1-carboxylate | 259 mg, 29% | NC1=NC=NN2C1=CC=C2CC2CN(C2)C(=O)OC(C)(C)C | C15H21N5O2
